US06821980B1
(5-Morpholin-4-ylmethyl-thiophen-2-yl)-boron acid is prepared analogously to (5-hydroxymethyl-thiophen-2-yl)-boron acid (described in example (2ab)) starting from 4-thiophen-2-ylmethyl-morpholine (1.83 g; 10 mmol).

reactant | (5-hydroxymethyl-thiophen-2-yl)-boron | OCC1=CC=C(S1)[B] | C5H5BOS
reactant | 4-thiophen-2-ylmethyl-morpholine | 10 mmol, 1.83 g | S1C(=CC=C1)CN1CCOCC1 | C9H13NOS
product | (5-Morpholin-4-ylmethyl-thiophen-2-yl)-boron | N1(CCOCC1)CC1=CC=C(S1)[B] | C9H12BNOS
